US05780661
26.8 g thiophenol, 18.8 g allyl (methyl) dichlorosilane and 0.60 mg azobisisobutylonitrile were put in a 100-mL three-neck flask that had been subjected to nitrogen substitution and the mixture was heated at 60° C. for 5 hours. After the reaction, the product was distilled under reduced pressure, obtaining 3-(thiophenyl) propyl (methyl) dichlorosilane with a 88% yield.

reactant | thiophenol | 26.8 g | C1(=CC=CC=C1)S | C6H6S
reactant | allyl (methyl) dichlorosilane | 18.8 g | C(C=C)[Si](Cl)(Cl)C | C4H8Cl2Si
reactant | azobisisobutylonitrile | 0.60 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 3-(thiophenyl) propyl (methyl) dichlorosilane | 88% yield | S1C(=CC=C1)CCC[Si](Cl)(Cl)C | C8H12Cl2SSi
